US05500417
([1,1 '-Biphenyl]-2-ylmethyl)phosphonic acid dimethyl ester
A solution of 2-(bromomethyl)biphenyl (4.94 g, 0.020 M) and trimethylphosphite (5.0 mL, 5.26 g, 0.042 M) in toluene (25 mL) is heated at reflux temperature for 24 hours Toluene and excess trimethylphosphite are removed under reduced pressure and the oily residue is chromatographed over silica gel (195 g, 40-63 pm, EtOAc, 50 mL fractions) using EtOAc to elute the column. The title compound (5.35 g, 0.0194 M, 97%) is obtained in fractions 10-19 and is a colorless viscous oil.

reactant | 2-(bromomethyl)biphenyl | 0.020 M, 4.94 g | BrCC1=C(C=CC=C1)C1=CC=CC=C1 | C13H11Br
reactant | trimethylphosphite | 0.042 M, 5.0 mL, 5.26 g | COP(OC)OC | C3H9O3P
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
product | ([1,1 '-Biphenyl]-2-ylmethyl)phosphonic acid dimethyl ester | 0.0194 M, 5.35 g, 97% | COP(OC)(=O)CC1=C(C=CC=C1)C1=CC=CC=C1 | C15H17O3P
